US04880809
Using 1-methoxy-2-naphthoic acid (1 g) and thionyl chloride (3 ml), a reaction as that described in Example 24 is carried out to give 1-methoxy-2-naphthoyl chloride, which is allowed to react with 1-(3,4,5-trimethoxybenzyl)piperazine dihydrochloride (1.8 g). The product is purified by silica gel column chromatography (hexane:acetone=3:2-1:2) and then converted to the hydrochloride in a mixture of ethyl acetate and ethyl ether. Thus-obtained powder is recrystallized from ethyl acetate to afford 1-(1-methoxy-2-naphthoyl)-4-(3,4,5-trimethoxybenzyl) piperazine hydrochloride (1.7 g) as colorless crystals, m.p. 194°-197° C. (decomp.).

reactant | 1-methoxy-2-naphthoic acid | 1 g | COC1=C(C=CC2=CC=CC=C12)C(=O)O | C12H10O3
reactant | thionyl chloride | 3 ml | S(=O)(Cl)Cl | Cl2OS
product | 1-methoxy-2-naphthoyl chloride | COC1=C(C=CC2=CC=CC=C12)C(=O)Cl | C12H9ClO2
